US07541374B2
0.82 g of 3-t-butyl-4-chloro-1H-pyrazole-1-ylmethanol was dissolved to 45 ml of dichloromethane. 3.4 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 0.98 g of 3-t-butyl-4-chloro-1-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | 3-t-butyl-4-chloro-1H-pyrazole-1-ylmethanol | 0.82 g | C(C)(C)(C)C1=NN(C=C1Cl)CO | C8H13ClN2O
reactant | thionyl chloride | 3.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 3-t-butyl-4-chloro-1-(chloromethyl)-1H-pyrazole hydrochloride | 0.98 g | Cl.C(C)(C)(C)C1=NN(C=C1Cl)CCl | InChI=1S/C8H12Cl2N2.ClH/c1-8(2,3)7-6(10)4-12(5-9)11-7;/h4H,5H2,1-3H3;1H
